US05387587
A solution of 1 g of 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy )-6-nitro-3-chromanol in 25 ml of methanol is hydrogenated at 20° and 1 bar on 0.5 g of 5% Pd-C to completion. The mixture is filtered, evaporated and 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-amino-3-chromanol is obtained.

reactant | 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy )-6-nitro-3-chromanol | 1 g | CC1(OC2=CC=C(C=C2C(C1O)OC1=CC(=NC=C1)O)[N+](=O)[O-])C | C16H16N2O6
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-amino-3-chromanol | CC1(OC2=CC=C(C=C2C(C1O)OC1=CC(=NC=C1)O)N)C | C16H18N2O4
